US08304419B2
Step A: methyl 6-nitro-1H-indole-2-carboxylate
Sulfuric acid (1 mL, 18.76 mmol) was added to a suspension of 6-nitro-1H-indole-2-carboxylic acid (0.5 g, 2.425 mmol) in methanol (5 mL). The mixture was heated to reflux for 2 h. The reaction mixture was cooled to RT, poured into ice/water, neutralized with sodium bicarbonate, and extracted with ethyl acetate. The organic extracts were combined, dried over sodium sulfate, and concentrated to give the title compound (0.433 g, 81%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ ppm 9.31 (s, 1H), 8.41 (s, 1H), 8.05 (dd, 1H), 7.79 (d, 1H), 7.29 (s, 1H), 3.70-4.24 (m, 3H). MS: m/z 221 (M+1).

reactant | Sulfuric acid | 18.76 mmol, 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | 6-nitro-1H-indole-2-carboxylic acid | 2.425 mmol, 0.5 g | [N+](=O)([O-])C1=CC=C2C=C(NC2=C1)C(=O)O | C9H6N2O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | methyl 6-nitro-1H-indole-2-carboxylate | 0.433 g, 81% | [N+](=O)([O-])C1=CC=C2C=C(NC2=C1)C(=O)OC | C10H8N2O4
